US07030240B2
tert-butyl 1-(3,5-difluorobenzyl)piperidin-4-ylcarbamate
The title compound was prepared (3.3 g, 100%) from tert-butyl piperidin-4-ylcarbamate (2 g, 10 m. mol) and 3,5-difluorobenzaldehyde (1.42 g, 10 mmol) by following the general procedure described for Preparation 3. 1H NMR (400 MHz, CDCl3): δ 6.85 (m, 2H), 6.65 (m, 1H), 4.45 (bs, 1H), 3.50 (m, 1H), 3.05 (s, 2H), 2.75 (m, 2H), 2.10 (m, 2H), 1.90 (m, 2H), 1.45 (m, 11H). MS (ESI) m/z: Calculated: 326.38; Observed: 327.0 (M++1).

reactant | tert-butyl piperidin-4-ylcarbamate | 2 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | 3,5-difluorobenzaldehyde | 10 mmol, 1.42 g | FC=1C=C(C=O)C=C(C1)F | C7H4F2O
product | tert-butyl 1-(3,5-difluorobenzyl)piperidin-4-ylcarbamate | FC=1C=C(CN2CCC(CC2)NC(OC(C)(C)C)=O)C=C(C1)F | C17H24F2N2O2
